US08895733B2
Intermediate 174: 6-(2,2,2-Trifluoroethoxy)pyridine-2-carboxylic acid
6-Chloropyridine-2-carboxylic acid (1.00 g, 6.347 mmol), 2,2,2-trifluoroethan-1-ol (0.683 mL, 9.520 mmol) and potassium hydroxide (1.424 g, 25.387 mmol) were dissolved in DMSO (25 mL) and heated at 100 C for 18 h. The reaction mixture was re-treated with potassium hydroxide (0.356 g, 6.347 mmol) and heated at 100 C for 18 h. The reaction mixture was then re-treated with 2,2,2-trifluoroethan-1-ol (1.367 mL, 19.040 mmol) and potassium hydroxide (0.356 g, 6.347 mmol) and heated at 110 C for 18 h. The reaction mixture was then further re-treated with potassium hydroxide (0.356 g, 6.347 mmol) and 2,2,2-trifluoroethan-1-ol (0.683 mL, 9.520 mmol) and the mixture was stirred at room temperature for 72 h. Water (10 mL) was added and acidified to pH 1 with 1M hydrochloric acid. The aqueous was extracted with EtOAc (3×15 mL) and the organic layer was washed with brine (15 mL). This was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give a brown gum. The crude material was purified by FCC (DCM: MeOH, 90:10) to afford the title compound as a yellow solid (1.26 g, 90%). Method B HPLC-MS: MH+ requires m/z=222 Found: m/z=222, Rt=1.71 min (79%).

reactant | 6-Chloropyridine-2-carboxylic acid | 6.347 mmol, 1.00 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | 2,2,2-trifluoroethan-1-ol | 9.520 mmol, 0.683 mL | FC(CO)(F)F | C2H3F3O
reactant | potassium hydroxide | 25.387 mmol, 1.424 g | [OH-].[K+]
reactant | potassium hydroxide | 6.347 mmol, 0.356 g | [OH-].[K+]
reactant | 2,2,2-trifluoroethan-1-ol | 19.040 mmol, 1.367 mL | FC(CO)(F)F | C2H3F3O
reactant | potassium hydroxide | 6.347 mmol, 0.356 g | [OH-].[K+]
reactant | potassium hydroxide | 6.347 mmol, 0.356 g | [OH-].[K+]
reactant | 2,2,2-trifluoroethan-1-ol | 9.520 mmol, 0.683 mL | FC(CO)(F)F | C2H3F3O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | Water | 10 mL | O | H2O
product | 6-(2,2,2-Trifluoroethoxy)pyridine-2-carboxylic acid | 1.26 g, 90% | FC(COC1=CC=CC(=N1)C(=O)O)(F)F | C8H6F3NO3
